US09428456B2
rac-1-[1-(3-Nitro-phenyl)-propyl]-piperidine-4-carboxylic acid cyclohexylamide
A solution of α-ethyl-3-nitro-benzenemethanol (0.54 g, 2.98 mmol) in DCM (10 mL) is treated with PPh3 (1.6 g, 6.1 mmol).) and CBr4 (2 g, 6.03 mmol). The yellowish solution is stirred at RT for 2 h 30. Piperidine-4-carboxylic acid cyclohexylamide hydrochloride J-1 (0.82 g) is added at once, as well as DIPEA (2 mL). The RM is stirred at RT overnight then heated to 70° C. for 1H. The RM is evaporated under reduced pressure. The residue is partitioned between DCM (25 mL) and sat. aq. NaHCO3 (25 mL). The organic layer is washed twice with sat. aq. NaHCO3, dried over MgSO4 and evaporated under reduced pressure. The crude residue is purified by flash chromatography on silica gel using a gradient of DCM/MeOH/NH4OH 95:5:1 to 90:10:1. After concentration of the product-containing fractions, the title compound (0.173 g, 16%) is obtained as a colorless solid LC-MS A: tR=0.68 min; [M+H]+=374.21.

reactant | α-ethyl-3-nitro-benzenemethanol | 2.98 mmol, 0.54 g | C(C)C(O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H11NO3
reactant | PPh3 | 6.1 mmol, 1.6 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 6.03 mmol, 2 g | C(Br)(Br)(Br)Br | CBr4
reactant | Piperidine-4-carboxylic acid cyclohexylamide hydrochloride | 0.82 g | Cl.C1(CCCCC1)NC(=O)C1CCNCC1
reactant | DIPEA | 2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | rac-1-[1-(3-Nitro-phenyl)-propyl]-piperidine-4-carboxylic acid cyclohexylamide | 0.173 g, 16% | C1(CCCCC1)NC(=O)C1CCN(CC1)C(CC)C1=CC(=CC=C1)[N+](=O)[O-] | C21H31N3O3
